US08865704B2
trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid methyl ester
trans-4-(2-Oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid methyl ester (0.87 mg, 2.44 mmol) was dissolved in anhydrous DMF. NaH (1.95 g, 4.9 mmol, 60% in mineral oil) and MeI (0.30 ml, 4.9 mmol) were added and the mixture was stirred at room temperature for two days. H2O was added and the solvents were evaporated. The crude was dissolved in DCM (15 ml) and washed with H2O (10 ml). The organic layer was dried over Na2SO4, filtered and the solvent removed to give 0.93 g (yield quantitative) of the titled compound.

reactant | trans-4-(2-Oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid methyl ester | 2.44 mmol, 0.87 mg | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=C1C=C(C=C2)C(F)(F)F)=O | C17H19F3N2O3
reactant | NaH | 4.9 mmol, 1.95 g | [H-].[Na+]
reactant | MeI | 4.9 mmol, 0.30 ml | CI | CH3I
reactant | H2O | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(N(C2=C1C=C(C=C2)C(F)(F)F)C)=O | C18H21F3N2O3
